US08729271B2
{2-[4-(Trifluoromethoxy)phenyl]pyrimidin-4-yl}methanol
After lithium borohydride (3.0 M solution in tetrahydrofuran) (0.05 mL) and methanol (0.006 mL) was added dropwise to an ice-cold solution of ethyl 2-[4-(trifluoromethoxy)phenyl]pyrimidine-4-carboxylate (29 mg) in tetrahydrofuran (3.0 mL), the mixture was stirred for 1 hr, then returned to room temperature and stirred for 30 min. After the solvent was distilled off under reduced pressure, the residue was dissolved in ethyl acetate. After washing with 2N hydrochloric acid, saturated sodium hydrogen carbonate solution and brine, the organic phase was separated out. The solvent was distilled off under reduced pressure to afford the title compound (13 mg) as the residue.

reactant | lithium borohydride | 3.0 M, 0.05 mL | [BH4-].[Li+]
reactant | methanol | 0.006 mL | CO | CH4O
reactant | ethyl 2-[4-(trifluoromethoxy)phenyl]pyrimidine-4-carboxylate | 29 mg | FC(OC1=CC=C(C=C1)C1=NC=CC(=N1)C(=O)OCC)(F)F | C14H11F3N2O3
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | {2-[4-(Trifluoromethoxy)phenyl]pyrimidin-4-yl}methanol | 13 mg | FC(OC1=CC=C(C=C1)C1=NC=CC(=N1)CO)(F)F | C12H9F3N2O2
